US07179926B2
2-Methyl-2-phenylpropane-1,3-diol:
Diethyl diphenylmalonate (10 g, 42.4 mmol) and iodomethane (6.6 g, 46.6 mmol) was mixed in anhydrous THF (200 ml) at room temperature before NaH powder was added in several portions. The reaction finished instantly with release of heat. After cooled down to room temperature, aqueous NaHCO3 solution was added to quench the reaction. The mixture was extracted with ethyl acetate, washed with water, brine, dried with Na2SO4 and concentrated. A clean NMR spectrum of the crude product identified it as the desired product. 1H NMR (500 MHz, CDCl3) δ ppm 1.26 (t, J=7.17 Hz, 6 H) 4.24 (m, 3 H) 7.34 (m, 5 H). The crude product was then dissolved in anhydrous THF (200 ml) and cooled to −20° C. Lithium aluminun hydride (42.4 mmol) was added via dropping funnel within 10 minutes. The reaction mixture was warmed up naturally to room temperature and quenched with ethyl acetate and water. The orgamic layer was washed with brine and dried with Na2SO4 before being concentated in-vacuo. The crude product was purified by silica flash chromatography using 50% ethyl acetate in hexanes to yield 4.35 grams (62% in two steps) of the desired product. 1H NMR (500 MHz, CDCl3) δ: 3.85 (m, 3 H) 3.98 (d, J=10.99 Hz, 2 H) 7.27 (m, 1 H) 7.38 (t, J=7.93 Hz, 2 H) 7.44 (m, 2 H).

reactant | Diethyl diphenylmalonate | 42.4 mmol, 10 g | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C19H20O4
reactant | iodomethane | 46.6 mmol, 6.6 g | IC | CH3I
reactant | NaH | [H-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Lithium | [Li] | Li
reactant | hydride | 42.4 mmol | [H-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-Methyl-2-phenylpropane-1,3-diol | CC(CO)(CO)C1=CC=CC=C1 | C10H14O2
